US07008759B2
Step 1G. Synthesis of 2-ethyl-1-hexyloxynitro benzene
4-Nitrophenol (10 g, 72 mmol) and potassium carbonate (30.4 g, 0.22 mol) were added to dimethylformamide (80 mL) at room temperature and the mixture was stirred with heating at 100° C. for 2 hours. 2-Ethyl-1-hexyl bromide (16.7 g, 86 mmol) was slowly added to the mixture for 20 minutes. After the addition the mixture was further stirred at 150° C. for 3 hours. After cooling, the reaction mixture was poured into water (500 mL) and then the mixture was extracted with methylene chloride. After evaporation of solvent, the residual product was isolated as an oil in high yield (18 g, 71.6 mmol, 99% yield).

reactant | 4-Nitrophenol | 72 mmol, 10 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | potassium carbonate | 0.22 mol, 30.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
reactant | 2-Ethyl-1-hexyl bromide | 86 mmol, 16.7 g | C(C)C(CBr)CCCC | C8H17Br
reactant | water | 500 mL | O | H2O
product | 2-ethyl-1-hexyloxynitro benzene | 99% yield | C(C)C1=C(C=CC=C1[N+](=O)[O-])OCCCCCC | C14H21NO3
